US04940710
7-(3-Cyclopropyl-1-piperazinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 787 mg of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 1.736 g of 3-cyclopropylpiperazine and 8 ml of pyridine was heated at 140° C. in a pressure bottle for 18 hours and then purified as described in Example 95, giving 182 mg of the desired product, mp 245° C. (dec.).

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 787 mg | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | 3-cyclopropylpiperazine | 1.736 g | C1(CC1)C1CNCCN1 | C7H14N2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 7-(3-Cyclopropyl-1-piperazinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 182 mg | C1(CC1)C1CN(CCN1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C20H22FN3O3
